US07465726B2
4-[4-(3-Methoxy-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (48.2 mg, 0.144 mmol) and 5-amino-3-methoxyindazole-1-carboxylic acid tert-butyl ester (40.4 mg, 0.153 mmol) in isopropyl alcohol (3.0 mL) in a sealed tube was heated to 85° C. (bath temp.) for 16 h. LC/MS at that time showed the product (minor), indazole-Boc-product (major), de-Boc product (minor), and both starting materials. The bath temperature was increased to 90° C., and heating was continued for 2 d. After reaching rt, di-tert-butyldicarbonate (15 mg, 0.069 mmol) and N,N-diisopropylethylamine (0.1 mL, 0.6 mmol) were added to the reaction mixture, and the now clear solution was stirred at rt for 2 h. LC/MS at that time indicated complete conversion of the de-Boc product to the product. 14.8 M of ammonia in Water (2.0 mL) was added, and the mixture was stirred at rt overnight and heated to 90° C. for 5 h. Sodium hydroxide (6.5 mg, 0.16 mmol) was added, and heating was continued overnight. Water and sat. NH4Cl solution were added, the mixture was extracted with CH2Cl2 (100 mL) and CH2Cl2:MeOH 10:1 (50 mL), and the combined organic layers were dried over MgSO4. The organic solution was filtered through a plug of silica gel (≈1″ in a 60 mL glass frit), which was further washed with 5% MeOH in CH2Cl2 until the entire product was eluted. The solution containing the product was concentrated and dried overnight in vacuo. The solid from the aqueous phase was filtered off, washed with water, and dried in vacuo overnight. From the precipitate of the aqueous phase, one obtained the title compound as light brown solid. From the silica gel plug filtration, one obtained a light brown solid that was further purified by MDP to give the title compound as off-white solid. 1H NMR (DMSO-d6, 400 MHz): δ=1.44 (s, 9H), 2.42-2.50 (brs, 2H), 3.52-3.60 (m, 2H), 4.00 (s, 3H), 3.98-4.07 (m, 2H), 6.38 (brs, 1H), 6.75 (brs, 1H), 7.34 (d, J=8.8 Hz, 1H), 7.62 (dd, J=2.0, 8.8 Hz, 1H), 8.25 (s, 1H), 8.26 (s, 1H), 9.29 (s, 1H), 11.78 (s, 1H), 11.90 (s, 1H). MS (ES+): m/z 462.0 (100) [MH+]. HPLC: tR=2.5 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.144 mmol, 48.2 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 5-amino-3-methoxyindazole-1-carboxylic acid tert-butyl ester | 0.153 mmol, 40.4 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)N)OC | C13H17N3O3
reactant | di-tert-butyldicarbonate | 0.069 mmol, 15 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 0.6 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonia | 14.8 M | N | H3N
reactant | Sodium hydroxide | 0.16 mmol, 6.5 mg | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | isopropyl alcohol | 3.0 mL | C(C)(C)O | C3H8O
solvent | Water | 2.0 mL | O | H2O
product | 4-[4-(3-Methoxy-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)OC)N1 | C24H27N7O3
